US07834051B2
2-chloro-4-[(4R,5S)-3,3-difluoro-4-hydroxy-5-methyl-2-oxopyrrolidin-1-yl]benzonitrile
Using 4-bromo-2-chlorobenzonitrile (556 mg), (4R,5S)-3,3-difluoro-4-hydroxy-5-methylpyrrolidin-2-one (448 mg), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (219 mg), tris(dibenzylideneacetone)dipalladium(0) (113 mg) and cesium carbonate (1.18 g), and in the same manner as in Reference Example 3, the title compound was obtained as a white powder (yield: 34.2 mg, 5%).

reactant | 4-bromo-2-chlorobenzonitrile | 556 mg | BrC1=CC(=C(C#N)C=C1)Cl | C7H3BrClN
reactant | (4R,5S)-3,3-difluoro-4-hydroxy-5-methylpyrrolidin-2-one | 448 mg | FC1(C(N[C@H]([C@H]1O)C)=O)F | C5H7F2NO2
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 219 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | cesium carbonate | 1.18 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 113 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-chloro-4-[(4R,5S)-3,3-difluoro-4-hydroxy-5-methyl-2-oxopyrrolidin-1-yl]benzonitrile | ClC1=C(C#N)C=CC(=C1)N1C(C([C@@H]([C@@H]1C)O)(F)F)=O | C12H9ClF2N2O2
